US04690925
1.0 g of methyl 2-(N-cyclohexyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramidyl)acetate HCl suspended in 50 ml of ether is stirred with one equivalent of dilute aqueous potassium carbonate solution until the salt is completely dissolved. The organic layer is then separated, washed twice with water, dried over magnesium sulfate and evaporated to yield methyl 2-(N-cyclohexyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramidyl)acetate as the free base.

reactant | methyl 2-(N-cyclohexyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramidyl)acetate HCl | 1.0 g | Cl.C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3)=O)=O)CC(=O)OC
reactant | potassium carbonate | one equivalent | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 50 ml | CCOCC | C4H10O
product | methyl 2-(N-cyclohexyl-4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyramidyl)acetate | C1(CCCCC1)N(C(CCCOC=1C=C2CN3C(=NC2=CC1)NC(C3)=O)=O)CC(=O)OC | C23H30N4O5
